US05212187
N-cyano-N'-[4-[N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]-butyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine
Preparation is effected analogously to Example 1, using 0.8 g (2.5 mmol) of N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine and 0.99 g (2.5 mmol) of N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int.[%])=614 ([M+H]+, 3), 214 (50.2), 154 ([m-NO2 -benzylOH], 100); IR (KBr): 2163 cm-1 (C≡N). For analytical purposes a sample is converted into the O,O'-ditoluoyltartaric acid salt and recrystallised from ether/isopropanol; m.p.: 105°-110° C. with decomposition.

reactant | N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine | 2.5 mmol, 0.8 g | FC1=CC=C(C=C1)C(CCN(CCCCN)C)C1=NC=CC=C1 | C19H26FN3
reactant | N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea | 2.5 mmol, 0.99 g | C(#N)NC(OC1=CC=CC=C1)=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28N4O2
product | N-cyano-N'-[4-[N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]-butyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine | C(#N)NC(=NCCCOC1=CC(=CC=C1)CN1CCCCC1)NCCCCN(C)CCC(C1=NC=CC=C1)C1=CC=C(C=C1)F | C36H48FN7O
